US07737135B2
a) 2-[5-chloro-2-(phenylmethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane
Pinacol (3.24 g) was added to a solution of [5-chloro-2-(phenylmethoxy)phenyl]-boronic acid (6 g) in diethyl ether, and stirred for 24 h. 4 A molecular sieves and pinacol (1.5 g) were added, stirred for a further 24 h. The sieves were filtered and the filtrate was washed with water and brine, then dried (MgSO4) and concentrated in vacuo. Yield 6.8 g.

reactant | Pinacol | 3.24 g | OC(C)(C)C(C)(C)O | C6H14O2
reactant | [5-chloro-2-(phenylmethoxy)phenyl]-boronic acid | 6 g | ClC=1C=CC(=C(C1)B(O)O)OCC1=CC=CC=C1 | C13H12BClO3
reactant | pinacol | 1.5 g | OC(C)(C)C(C)(C)O | C6H14O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[5-chloro-2-(phenylmethoxy)phenyl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | ClC=1C=CC(=C(C1)B1OC(C(O1)(C)C)(C)C)OCC1=CC=CC=C1 | C19H22BClO3
